US07902219B2
To a solution of 0.2 g of 2-(6-aminopyridin-3-yl)propan-2-ol in 10 mL of diglyme is added a solution of 0.358 g of 3-bromo-1-phenylpropane-1,2-dione in 5 mL of THF. The reaction mixture is stirred for 15 hours at 4° C. and then concentrated to dryness under reduced pressure. The residue is chromatographed on a column of silica, eluting with dichloromethane and then with a 98/2 mixture of dichloromethane and methanol. The fractions containing the expected product are combined and concentrated to dryness to give 60 mg of [6-(1-hydroxy-1-methylethyl)imidazo[1,2-a]pyridin-2-yl](phenyl)methanone hydrobromide (1:1) in the form of a straw-yellow solid.

reactant | 2-(6-aminopyridin-3-yl)propan-2-ol | 0.2 g | NC1=CC=C(C=N1)C(C)(C)O | C8H12N2O
reactant | 3-bromo-1-phenylpropane-1,2-dione | 0.358 g | BrCC(C(=O)C1=CC=CC=C1)=O | C9H7BrO2
solvent | diglyme | 10 mL | COCCOCCOC | C6H14O3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | [6-(1-hydroxy-1-methylethyl)imidazo[1,2-a]pyridin-2-yl](phenyl)methanone hydrobromide | 60 mg | Br.OC(C)(C)C=1C=CC=2N(C1)C=C(N2)C(=O)C2=CC=CC=C2 | InChI=1S/C17H16N2O2.BrH/c1-17(2,21)13-8-9-15-18-14(11-19(15)10-13)16(20)12-6-4-3-5-7-12;/h3-11,21H,1-2H3;1H
